US06197962B1
First, 8.40 g (100 mmol) tiglic aldehyde (trans-2-methyl-2-butenal) and 8.35 g (50.0 mmol) of benzenesulfonyl cyanide were introduced to the same reaction vessel as in Example 1. Toluene (15 ml) as the solvent and butanol (1.5 ml) were added, and the mixture was heated under reflux for 3 hours while agitating at an internal temperature of 110° C. in a nitrogen atmosphere, separating and removing water that was produced. After this solution was cooled to room temperature, the low-boiling components, such as solvent, etc., were removed under reduced pressure and the resulting concentrate was cooled in an ice bath to precipitate crystals. The crystals were filtered with a glass filter and washed with 10 ml of toluene that had been cooled to 5° C. or lower. Then the crystals were dried for 2 hours in vacuo to give 10.5 g of 2-benzenesulfonyl-5-methylpyridine with the following properties as colorless crystals (purity of 99%, yield of 88% based on benzenesulfonyl cyanide).

reactant | benzenesulfonyl cyanide | 50.0 mmol, 8.35 g | C1(=CC=CC=C1)S(=O)(=O)C#N | C7H5NO2S
reactant | Toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | butanol | 1.5 ml | C(CCC)O | C4H10O
product | 2-benzenesulfonyl-5-methylpyridine | 10.5 g, yield of 88% | C1(=CC=CC=C1)S(=O)(=O)C1=NC=C(C=C1)C | C12H11NO2S
